US07199147B2
Under nitrogen, 3-[(4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)oxy]benzonitrile (299 mg, 0.897 mmol) was dissolved in a mixture of isopropyl alcohol (6 ml) and 1,4-dioxane (6 ml), followed by adding thereto a 4N-hydrochloric acid/1,4-dioxane solution (6 ml), and the resulting mixture was stirred at room temperature for 23 hours. After diethyl ether (30 ml) was added thereto and stirred, the precipitate was collected by filtration, washed with diethyl ether and then dried under reduced pressure to obtain 3-[(4-methyl-1H-indazol-5-yl)oxy]benzonitrile hydrochloride (176 mg, yield 69%).

reactant | 3-[(4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)oxy]benzonitrile | 0.897 mmol, 299 mg | CC1=C2C=NN(C2=CC=C1OC=1C=C(C#N)C=CC1)C1OCCCC1 | C20H19N3O2
reactant | hydrochloric acid 1,4-dioxane | 6 ml | Cl.O1CCOCC1
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | isopropyl alcohol | 6 ml | C(C)(C)O | C3H8O
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 3-[(4-methyl-1H-indazol-5-yl)oxy]benzonitrile hydrochloride | 176 mg, yield 69% | Cl.CC1=C2C=NNC2=CC=C1OC=1C=C(C#N)C=CC1 | InChI=1S/C15H11N3O.ClH/c1-10-13-9-17-18-14(13)5-6-15(10)19-12-4-2-3-11(7-12)8-16;/h2-7,9H,1H3,(H,17,18);1H
